US06703468B1
[1] Glutamine-methacrylamide [Compound Represented by Formula (4)]
Potassium carbonate(34.55 g) was dissolved in 100 ml of distilled water, 7.30 g of L-glutamine was dissolved in the solution, and 20 ml of acetonitrile was further added to the solution. The reaction mixture was added dropwise with 10.45 g of methacryloyl chloride over about 10 minutes with vigorous stirring, and further stirred for about 2 hours. The reaction mixture was adjusted to pH 1-2 with concentrated hydrochloric acid, saturated with sodium chloride, and extracted 2 times with 100 ml of ethyl acetate. The obtained aqueous layer was extracted 3 times with 100 ml of ethyl acetate/isopropanol=1/1. The ethyl acetate/isopropanol layers were combined, concentrated, and purified on a silica gel column (30 g of silica gel, eluted with chloroform/methanol=2/1). The corresponding fractions were collected and concentrated (colorless syrup, 7.47 g)

reactant | Potassium carbonate | 34.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | L-glutamine | 7.30 g | N[C@@H](CCC(N)=O)C(=O)O | C5H10N2O3
reactant | methacryloyl chloride | 10.45 g | C(C(=C)C)(=O)Cl | C4H5ClO
reactant | hydrochloric acid | Cl | ClH
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | Glutamine-methacrylamide | C(C(=C)C)(=O)N.N[C@@H](CCC(N)=O)C(=O)O | InChI=1S/C5H10N2O3.C4H7NO/c6-3(5(9)10)1-2-4(7)8;1-3(2)4(5)6/h3H,1-2,6H2,(H2,7,8)(H,9,10);1H2,2H3,(H2,5,6)/t3-;/m0./s1
